US07560558B2
Compound 454: 7-Benzyloxy-4-[2-(4,5-dimethyl-thiazol-2-yl)-5,6-dimethyl-pyridin-3-yloxy]-6-methoxy-quinoline
2-(4,5-Dimethyl-thiazol-2-yl)-5,6-dimethyl-pyridin-3-ol (200 mg), 7-benzyloxy-4-chloro-6-methoxyquinoline (768 mg), 4-dimethylaminopyridine (313 mg), and cesium carbonate (313 mg) were suspended in dimethyl sulfoxide (4 ml), and the mixture was stirred at 130° C. for 9 hr. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using chloroform-methanol to give the title compound (94 mg, yield 22%).

reactant | 2-(4,5-Dimethyl-thiazol-2-yl)-5,6-dimethyl-pyridin-3-ol | 200 mg | CC=1N=C(SC1C)C1=NC(=C(C=C1O)C)C | C12H14N2OS
reactant | 7-benzyloxy-4-chloro-6-methoxyquinoline | 768 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)Cl)OC | C17H14ClNO2
reactant | cesium carbonate | 313 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 313 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
product | 7-Benzyloxy-4-[2-(4,5-dimethyl-thiazol-2-yl)-5,6-dimethyl-pyridin-3-yloxy]-6-methoxy-quinoline | 94 mg, yield 22% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC=1C(=NC(=C(C1)C)C)C=1SC(=C(N1)C)C)OC | C29H27N3O3S
